US06107345
Step G: 6-Methoxybenzocyclobutan-1-ol
13.21 g (0.35 mol) of sodium borohydride are added in small fractions to a solution, maintained at 0° C., of 42.8 g (0.29 mol) of 6-methoxybenzocyclobutan-1-one in 1.5 liters of methanol. The temperature is maintained at 0° C. for 2 hours. After returning to room temperature, the reaction mixture is evaporated to dryness and then taken up in water. The aqueous phase is extracted several times with ethyl acetate. The organic phases are combined, washed with brine, dried over MgSO4, filtered and evaporated to yield, after chromatography on silica, 29.2 g of the expected product in the form of a solid, the melting point of which is 71-73° C.

reactant | sodium borohydride | 0.35 mol, 13.21 g | [BH4-].[Na+]
reactant | 6-methoxybenzocyclobutan-1-one | 0.29 mol, 42.8 g | COC1=CC=CC2=C1C(C2)=O | C9H8O2
solvent | methanol | 1.5 liters | CO | CH4O
product | 6-Methoxybenzocyclobutan-1-ol | 29.2 g | COC1=CC=CC2=C1C(C2)O | C9H10O2
